US07776872B2
A mixture of toluene-4-sulfonic acid 2-isopropyl-quinolin-3-yl ester (1.31 g, 3.8 mmol), 0.64 g (11.4 mmol) of KOH in 10 mL of water, and 50 mL of p-dioxane was heated to refluxe for 1.5 hours until completion. The p-dioxane was removed under reduced pressure and the residue was diluted with water and acidified with 1N HCl to pH=6. The aqueous solution was extracted with ethyl acetate and the combined organic layers were washed with brine, dried (MgSO4) and concentrated under reduced pressure to afford quantitatively 0.71 g of 2-isopropyl-quinolin-3-ol

reactant | toluene-4-sulfonic acid 2-isopropyl-quinolin-3-yl ester | 3.8 mmol, 1.31 g | C(C)(C)C1=NC2=CC=CC=C2C=C1OS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO3S
reactant | KOH | 11.4 mmol, 0.64 g | [OH-].[K+]
reactant | p-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | 2-isopropyl-quinolin-3-ol | 0.71 g | C(C)(C)C1=NC2=CC=CC=C2C=C1O | C12H13NO
